US06476030B1
c) 4-tert-Butyl-5-hydroxymethyl-3-(p-toluenesulfonyloxy)pyrazole
To a suspension of 4-tert-butyl-5-hydroxymethylpyrazol-3-one (6.25 g, 0.037 mol) in dry dichloromethane (200 ml) was added p-toluene sulfonyl chloride (9.8 g, 0.051 mol) followed by triethylamine (6.14 ml, 0.044 mol) dropwise. The solution was stirred at room temperature for 3 days. Dichloromethane (250 ml) was then added to dilute and the solution was washed with brine (250 ml), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by silica gel chromatography with 0%→30% ethyl acetate/dichloromethane as eluent to give the title compound (7.5 g). Data for the title compound: 1H NMR (400 MHz, DMSO) δ 1.28 (9H, s), 2.43 (3H, s), 4.49 (2H, m), 5.32 (1H, m), 7.47 (2H, m), 7.86 (2H, m), 12.28 (1H, s); MS (ES+) m/e 325 [MH]+.

reactant | 4-tert-butyl-5-hydroxymethylpyrazol-3-one | 0.037 mol, 6.25 g | C(C)(C)(C)C=1C(N=NC1CO)=O | C8H12N2O2
reactant | p-toluene sulfonyl chloride | 0.051 mol, 9.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.044 mol, 6.14 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-tert-Butyl-5-hydroxymethyl-3-(p-toluenesulfonyloxy)pyrazole | 7.5 g | C(C)(C)(C)C=1C(=NNC1CO)OS(=O)(=O)C1=CC=C(C=C1)C | C15H20N2O4S
